US07332485B2
1-Formyl-Cyclohexanecarboxylic Acid Methyl Ester
To a solution of dimethyl cyclohexane-1,1-dicarboxylate (2.8 g, 14.0 mmol) in dichloromethane(55 mL) at −78° C. under a nitrogen atmosphere was added diisobutylaluminum hydride (1.5M in toluene, 19 mL, 28 mmol) dropwise. After 3 h, the reaction mixture was quenched with saturated aqueous NH4Cl solution (11 mL), then 1N HCl (14 mL) and allowed to warm to room temperature. The mixture was filtered through Celite@ and the organic phase was separated, was dried (MgSO4) and was evaporated in vacuo to yield the title compound which was used without further purification (1.23 g, 52%). MH+171.

reactant | dimethyl cyclohexane-1,1-dicarboxylate | 14.0 mmol, 2.8 g | C1(CCCCC1)(C(=O)OC)C(=O)OC | C10H16O4
reactant | diisobutylaluminum hydride | 28 mmol, 1.5M, 19 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | dichloromethane | 55 mL | ClCCl | CH2Cl2
product | 1-Formyl-Cyclohexanecarboxylic Acid Methyl Ester | COC(=O)C1(CCCCC1)C=O | C9H14O3
